US07399765B2
2-Phenylthiazole
A solution of 2-bromothiazole (1.0 g, 6.1 mmol, Aldrich) in dioxane (25 mL) was treated with phenylboronic acid (0.82 g, 6.4 mmol), Pd(PtBu3)2 (0.16 g, 0.3 mmol, Strem) and Cs2CO3 (3.97 g, 12.2 mmol). The mixture was stirred at 80° C. for 12 hours. The reaction mixture was cooled to ambient temperature, concentrated under reduced pressure, and purified by column chromatography (SiO2, 1:1 hexanes/ethyl acetate) to give provide the title compound (0.69 g, 4.3 mmol, 70%). 1H NMR (CDCl3, 300 MHz) 67.33 (m, 1H), 7.41-7.48 (m, 3H), 7.87 (d, 1H, J=3.4 Hz), 7.95-8.00 (m, 2H); MS (DCl/NH3) m/z 162 (M+H+).

reactant | 2-bromothiazole | 6.1 mmol, 1.0 g | BrC=1SC=CN1 | C3H2BrNS
reactant | phenylboronic acid | 6.4 mmol, 0.82 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Cs2CO3 | 12.2 mmol, 3.97 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PtBu3)2 | 0.3 mmol, 0.16 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 2-Phenylthiazole | 4.3 mmol, 0.69 g, 70% | C1(=CC=CC=C1)C=1SC=CN1 | C9H7NS
